US04889553
(a) 3,5-bis(benzylthio)-1-(pyrimidin-2-yl)-1,2,4-triazole
3,5-Bis(benzylthio)-1,2,4-triazole (50 g), 2-chloropyrimidine (18.3 g) and potassium carbonate (22.1 g) were heated in dimethylformamide (200 ml) at 100° C. for 12 hours. After addition to ice-water, the product was extracted into dichloromethane (twice). The dichloromethane solution was washed with water (3 times), dried over magnesium sulphate and run down, leaving 64.4 g of crude title. Recrystallisation from methanol gave 39 g of the desired product, mp 86°-88° C.

reactant | 3,5-Bis(benzylthio)-1,2,4-triazole | 50 g | C(C1=CC=CC=C1)SC1=NNC(=N1)SCC1=CC=CC=C1 | C16H15N3S2
reactant | 2-chloropyrimidine | 18.3 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium carbonate | 22.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3,5-bis(benzylthio)-1-(pyrimidin-2-yl)-1,2,4-triazole | 39 g | C(C1=CC=CC=C1)SC1=NN(C(=N1)SCC1=CC=CC=C1)C1=NC=CC=N1 | C20H17N5S2
